US08648096B2
A stirred mixture of 3-[(t-butoxycarbonyl-methyl-amino)-methyl]-phthalic acid (2.3 g, 7.1 mmol) from above and α-aminoglutarimide hydrochloride (1.3 g, 7.8 mmol) in pyridine (40 mL) was refluxed for 5 hours. The mixture was cooled and concentrated in vacuo. The residue was dissolved in EtOAc (100 mL) and water (50 mL). The EtOAc solution was separated and washed with water (40 mL), IN citric acid (2×40 mL), water (2×40 mL), and brine (40 mL), and then dried (MgSO4). Solvent was removed in vacuo, and the residue was purified by flash chromatography (SiO2, CH2Cl2: EtOAc 8:2) to give [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-methyl-carbamic acid t-butyl ester (1.7 g, 60%): mp 138-140° C.; 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 7.91-7.81 (m, 2H), 7.57 (b, 1H), 5.19-5.12 (dd, J=5.3 and 12.6 Hz, 1H), 4.85 (s, 2H), 2.97-2.83 (m, 1H), 2.89 (s, 3H), 2.63-2.50 (m, 2H), 2.07-2.03 (m, 1H), 1.44-1.29 (d, 9H); 13CNMR (DMSO-d6) δ 172.70, 169.74, 167.48, 166.87, 154.75, 138.31, 134.99, 132.31, 131.74, 127.42, 121.98, 79.13, 48.86, 47.32, 34.84, 30.90, 27.93, 21.94; Anal. Calcd. for C20H23N3O6: C, 59.84; H, 5.78; N, 10.47. Found: C, 59.51; H, 5.68; N, 10.31.

reactant | 3-[(t-butoxycarbonyl-methyl-amino)-methyl]-phthalic acid | 7.1 mmol, 2.3 g | C(C)(C)(C)OC(=O)N(C)CC1=C(C(C(=O)O)=CC=C1)C(=O)O | C15H19NO6
reactant | α-aminoglutarimide hydrochloride | 7.8 mmol, 1.3 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-methyl-carbamic acid t-butyl ester | 1.7 g, 60% | C(C)(C)(C)OC(N(C)CC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C20H23N3O6
